US07435837B2
Treatment of (±)-(7-anilino-2,3-dihydro-1-benzofuran-2-yl)methyl-4-methylbenzenesulfonate (0.96 g, 3.0 mmol) in toluene (20 mL) with 1-bromo-4-methylbenzene (0.513 g, 3.0 mmol)dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II)dichloromethane (0.061 g, 0.075 mmol), 1,1′-bis(diphenylphosphino)ferrocene (0.125 g, 0.225 mmol), sodium tert-butoxide (0.18 g, 1.875 mmol) the reaction was allowed to reflux 3 h. The solvent was removed in vacuo. The residue was washed with water (100 mL) and ethyl acetate (50 mL). The combined organic layers were washed with saturated aqueous sodium chloride, dried (magnesium sulfate), and the solvent removed in vacuo to provide a crude oil. Purification by flash column chromatography (silica, ethyl acetate:hexanes 3:10) afforded 0.36 g (29%) of (±)-{7-[(4-methylphenyl)amino]-2,3-dihydro-1-benzofuran-2-yl}methyl 4-methylbenzenesulfonate as a yellow solid. mp 118-120° C.

reactant | (±)-(7-anilino-2,3-dihydro-1-benzofuran-2-yl)methyl-4-methylbenzenesulfonate | 3.0 mmol, 0.96 g | N(C1=CC=CC=C1)C1=CC=CC=2CC(OC21)COS(=O)(=O)C2=CC=C(C=C2)C | C22H21NO4S
reactant | 1-bromo-4-methylbenzene | 3.0 mmol, 0.513 g | BrC1=CC=C(C=C1)C | C7H7Br
reactant | sodium tert-butoxide | 1.875 mmol, 0.18 g | CC(C)([O-])C.[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.225 mmol, 0.125 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | (±)-{7-[(4-methylphenyl)amino]-2,3-dihydro-1-benzofuran-2-yl}methyl 4-methylbenzenesulfonate | 0.36 g, 29% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2NC2=CC=C(C=C2)C | C23H23NO4S
